US07906546B2
To a stirred solution of 170 mg (0.35 mmol) of (RS,SR)-5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazole-3-carboxylic acid amide in 2 mL acetonitrile at RT was added 0.5 mL phosphorous oxychloride. The dark brown solution was stirred for 1 hour and then the temperature was raised to 50° C. and stirred overnight. After cooling down to RT, 0.5 mL phosphorous oxychloride were added. The reaction mixture was stirred for 2 hours under reflux condition. The solvent was partially evaporated and the resulting oil was dissolved with EtOAc and washed with saturated NaHCO3 solution. The organic phase was dried over Na2SO4, filtered and evaporated. Column chromatography on silica gel (EtOAc/heptane 1:1) yielded 20 mg (12%) (RS, SR)-5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazole-3-carbonitrile as a light red solid, MS: 457 (MH+).

reactant | (RS,SR)-5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazole-3-carboxylic acid amide | 0.35 mmol, 170 mg | C1(=CC=CC=C1)S(=O)(=O)C(C1=NC(=NO1)C(=O)N)(F)C1CC2=C(NC=3C=CC(=CC23)Cl)C1 | C21H16ClFN4O4S
reactant | phosphorous oxychloride | 0.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorous oxychloride | 0.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (RS, SR)-5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazole-3-carbonitrile | 20 mg, 12% | C1(=CC=CC=C1)S(=O)(=O)C(C1=NC(=NO1)C#N)(F)C1CC2=C(NC=3C=CC(=CC23)Cl)C1 | C21H14ClFN4O3S
